US06310070B1
1.52 g (4.57 mmol) of 7-benzyl-2-(4-methoxyphenyl) hypoxanthine prepared by the same method as in Example 14 was dissolved in 25 ml of acetic acid. After the addition of 3 ml of hydrobromic acid, the mixture was stirred for 58.5 hours at 100° C. After cooling, 10 ml of triethylamine and 100 ml of distilled water were added to the reaction mixture. The crystals produced were separated by filtration and washed with distilled water and ethanol to obtain 0.57 g of 7-benzyl-2-(4-hydroxyphenyl)hypoxanthine (yield 39%).

reactant | 7-benzyl-2-(4-methoxyphenyl) hypoxanthine | 4.57 mmol, 1.52 g | C(C1=CC=CC=C1)N1C=NC=2N=C(NC(C12)=O)C1=CC=C(C=C1)OC | C19H16N4O2
reactant | hydrobromic acid | 3 ml | Br | BrH
reactant | triethylamine | 10 ml | C(C)N(CC)CC | C6H15N
reactant | water | 100 ml | O | H2O
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | 7-benzyl-2-(4-hydroxyphenyl)hypoxanthine | 0.57 g, yield 39% | C(C1=CC=CC=C1)N1C=NC=2N=C(NC(C12)=O)C1=CC=C(C=C1)O | C18H14N4O2
